US06608217B2
200 g (1.11mol) of 4-(trifluoromethyl)chlorobenzene, 179 g (3.31 mol) of sodium methoxide, and 600 ml of methanol were mixed together in a pressurized reaction vessel, followed by stirring for 6 hr at 150° C. under tight sealing. The resulting reaction mixture was filtered to remove precipitates. Water was added to the obtained filtrate, followed by extraction with n-hexane. The resulting organic layer was washed with water, followed by drying with magnesium sulfate anhydride and removal of the solvent by distillation. The obtained residue was purified by distillation, thereby obtaining 112 g (0.636 mol) of 4-(trifluoromethyl)anisole (yield: 57%).

reactant | 4-(trifluoromethyl)chlorobenzene | 1.11mol, 200 g | FC(C1=CC=C(C=C1)Cl)(F)F | C7H4ClF3
reactant | sodium methoxide | 3.31 mol, 179 g | C[O-].[Na+]
solvent | methanol | 600 ml | CO | CH4O
product | 4-(trifluoromethyl)anisole | 0.636 mol, 112 g, yield: 57% | FC(C1=CC=C(C=C1)OC)(F)F | C8H7F3O
